US07705042B2
b) 1-[2-Fluoro-5-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine
The procedure of Example 4, step (b) was followed using 88 mg (0.19 mmol based on 60% purity by 1H-NMR) of 1-(5-chloro-4-fluoro-2-nitro-phenyl)-4-methyl-piperidine (as prepared in the previous step) and 105 μL (0.950 mmol) of 1-methylpiperazine at 150° C. for 16 h. Chromatography on a 10-g silica SPE column with 24% MeOH-dichloromethane afforded 60 mg (94%) of the title compound as a crystalline orange solid: Mass spectrum (ESI, m/z): Calcd. for C17H25FN4O2, 337.2 (M+H), found 337.2.

reactant | 1-(5-chloro-4-fluoro-2-nitro-phenyl)-4-methyl-piperidine | 0.19 mmol, 88 mg | ClC=1C(=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-])F | C12H14ClFN2O2
reactant | 1-methylpiperazine | 0.950 mmol, 105 μL | CN1CCNCC1 | C5H12N2
solvent | MeOH dichloromethane | CO.ClCCl
product | 1-[2-Fluoro-5-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine | 60 mg, 94% | FC1=C(C=C(C(=C1)[N+](=O)[O-])N1CCC(CC1)C)N1CCN(CC1)C | C17H25FN4O2
